US05100891
To a stirred suspension of 7-chloroacetyloxy-1,4-dihydro-4-methylcyclopent[b]-indol-3(2H)-one (6.0 g) in toluene (50 ml) was added benzylamine (9.2 g) and the mixture was heated at reflux temperature with azeotropic removal of water using a Dean Stark trap. After 4 hours, TLC analysis indicated complete conversion to product. The mixture was allowed to cool to room temperature and filtered, and the solid material was washed with acetonitrile. The filtrate and washings were combined, concentrated and purified by flash chromatography on silica gel (2:1 hexane/acetone as eluent). The crystals which formed in the product-containing fractions were collected via filtration to give 4-methyl-3-phenylmethylimino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol (1.1 grams) and the filtrate was concentrated to give an oil (3.0 grams) which crystallized upon standing.

reactant | 7-chloroacetyloxy-1,4-dihydro-4-methylcyclopent[b]-indol-3(2H)-one | 6.0 g | ClCC(=O)OC1=CC=2C3=C(N(C2C=C1)C)C(CC3)=O | C14H12ClNO3
reactant | benzylamine | 9.2 g | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methyl-3-phenylmethylimino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol | 1.1 grams | CN1C2=C(C=3C=C(C=CC13)O)CCC2=NCC2=CC=CC=C2 | C19H18N2O
